US07829699B2
Step 1 (Alternate): Ethyl 4-[(2-chloropyridin-3-yl)amino]piperidine-1-carboxylate
To a 2 L three-neck Morton-type flask equipped with a mechanical agitator and temperature probe was charged 3-amino-2-chloropyridine and ethyl 4-oxo-1-piperidinecarboxylate followed by IPAC. The mixture became homogeneous after 5 min agitation (16° C.). Trifluoroacetic acid was charged to the mixture over 30 s, causing an increase in temperature to 26° C. (no cooling used). After 15 min age, a caplet of NaBH4 (0.95 g, 0.025 mol) was added. The temperature was observed to increase to 28° C. over a 30 min period and the caplet dissolved completely within this time. This method of NaBH4 addition was repeated, allowing each caplet to dissolve before adding the next, until a total of eight caplets had been added over 7 h. At this time, LC analysis indicated >95% conversion of the 3-amino-2-chloropyridine. A solution of 10 wt % aqueous NaOH was added to the mixture at 30-40° C. (no cooling) over 10 min. When the pH of the mixture was 12-14, the phases were allowed to separate. The separated aqueous phase was 450 mL and LC assay indicated this contained 0.5 g, <1.0% of product. The organic phase washed with brine then the separated organic phase was assayed. The separated brine wash was 275 mL and LC assay indicated this contained negligible product. The organic phase was 690 mL and LC assay indicated this contained 87.5 g, 97% AY of reductively alkylated product and 2.1 g, 5% of starting amine. The yellow organic phase was concentrated (45° C. bath temperature) to approximately one-third original volume. Fresh IPAC was added and this process was repeated until the water content was 110 μg/mL by KF titration. The solution was concentrated to a volume of 170 mL then THF (230 mL) was added. This solution was used directly for the subsequent step.

reactant | 3-amino-2-chloropyridine | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | ethyl 4-oxo-1-piperidinecarboxylate | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaBH4 | 0.025 mol, 0.95 g | [BH4-].[Na+]
reactant | NaOH | [OH-].[Na+]
product | Ethyl 4-[(2-chloropyridin-3-yl)amino]piperidine-1-carboxylate | ClC1=NC=CC=C1NC1CCN(CC1)C(=O)OCC | C13H18ClN3O2
